US05106843
(b) N-[[[1-Azabicyclo[2.2.2]octan-3-yl]amino]carbonyl]-2-isopropoxybenzamide
The above compound was prepared, following the procedure of Example 1, from 3-aminoquinuclidine (0.31 g, 2.46 mmol) and crude 2-isopropoxybenzoyl isocyanate (0.58 g, ca 2.5 mmol). The product (0.51 g) was converted to the 1:1 fumarate, mp 171°-175° C.

reactant | 3-aminoquinuclidine | 2.46 mmol, 0.31 g | NC1CN2CCC1CC2 | C7H14N2
reactant | 2-isopropoxybenzoyl isocyanate | ca 2.5 mmol, 0.58 g | C(C)(C)OC1=C(C(=O)N=C=O)C=CC=C1 | C11H11NO3
reactant | fumarate | C(\C=C\C(=O)[O-])(=O)[O-]
product | N-[[[1-Azabicyclo[2.2.2]octan-3-yl]amino]carbonyl]-2-isopropoxybenzamide | N12CC(C(CC1)CC2)NC(=O)NC(C2=C(C=CC=C2)OC(C)C)=O | C18H25N3O3
